US09403833B2
Step 9: 8-(Trifluoromethoxy)-5,6-dihydro-4H-benzo[f][1,2,3]triazolo[1,5-a]azepine-3-carboxylic acid
To a solution of ethyl 8-(trifluoromethoxy)-5,6-dihydro-4H-benzo[f][1,2,3]triazolo[1,5-a]azepine-3-carboxylate (384 mg, 1.125 mmol) in THF (5 mL) and methanol (3 mL) was added 2M NaOH (aq) (2.81 mL, 5.63 mmol) and the mixture was stirred at RT for 45 mins. The resulting mixture was concentrated under reduced pressure to give a residue that was partitioned between EtOAc and water. The layers were separated and the aqueous layer was washed with EtOAc. The organic portions were discarded and the aqueous layer was treated with 2M HCl (aq) until acidic. The resulting solution was extracted with EtOAc and the organic extracts were dried over MgSO4, filtered and concentrated under reduced pressure to give the title compound as a yellow solid.

reactant | ethyl 8-(trifluoromethoxy)-5,6-dihydro-4H-benzo[f][1,2,3]triazolo[1,5-a]azepine-3-carboxylate | 1.125 mmol, 384 mg | FC(OC=1C=CC2=C(CCCC=3N2N=NC3C(=O)OCC)C1)(F)F | C15H14F3N3O3
reactant | NaOH | 5.63 mmol, 2M, 2.81 mL | [OH-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | methanol | 3 mL | CO | CH4O
product | 8-(Trifluoromethoxy)-5,6-dihydro-4H-benzo[f][1,2,3]triazolo[1,5-a]azepine-3-carboxylic acid | FC(OC=1C=CC2=C(CCCC=3N2N=NC3C(=O)O)C1)(F)F | C13H10F3N3O3
